US03952012
5-(p-Chlorobenzoyl)-1-methylpyrrole-2-propionic acid:
A suspension of 8.0 g. (0.025 mole) of ethyl 5-(p-chlorobenzoyl)-1-methylpyrrole-2-propionate in 15 ml. ethanol and 30 ml. 1N sodium hydroxide is refluxed for 1 hour. The ethanol is then evaporated and the remaining solution is poured into dilute hydrochloric acid. The resulting white precipitate is filtered off and purified by recrystallization from isopropyl alcohol, 5-(p-chlorobenzoyl)-1-methylpyrrole-2-propionic acid, m.p. 188°-191°C.

reactant | ethyl 5-(p-chlorobenzoyl)-1-methylpyrrole-2-propionate | 0.025 mole | ClC1=CC=C(C(=O)C2=CC=C(N2C)CCC(=O)OCC)C=C1 | C17H18ClNO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(p-Chlorobenzoyl)-1-methylpyrrole-2-propionic acid | ClC1=CC=C(C(=O)C2=CC=C(N2C)CCC(=O)O)C=C1 | C15H14ClNO3
